US03943149
C. 5-amino-2-acetoxyindan
A slurry of 8.0 g (0.045 moles) of 2-acetoxy-5-nitroindan in 25 ml of absolute ethanol and 32 ml of concentrated hydrochloric acid was treated over 1 hr with a solution of 24 g (0.11 moles) of stannous chloride in 32 ml of absolute ethanol, with water bath cooling to maintain T=20°C. The mixture was stirred for 1 day at room temperature, diluted with 100 ml of water and extracted twice with ether. The aqueous phase was basified with 10% sodium hydroxide until the hydroxides redissolved, then extracted with chloroform, dried (sodium sulfate) and evaporated to an oil which crystallized to 3.9 g (82%) 5-amino-2-hydroxyindan, the hydrochloride of which had mp 237°-239° after one crystallization from ether-methanol isopropanol.

reactant | 2-acetoxy-5-nitroindan | 0.045 moles, 8.0 g | C(C)(=O)OC1CC2=CC=C(C=C2C1)[N+](=O)[O-] | C11H11NO4
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 32 ml | Cl | ClH
solvent | ethanol | 32 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 5-amino-2-acetoxyindan | NC=1C=C2CC(CC2=CC1)OC(C)=O | C11H13NO2
